US05574042
To a suspension of sodium hydride (60% active, 124 mg) in dimethylformamide (2 ml) at ambient temperature was added ethyl 4-hydroxycinnamate (500 mg) under nitrogen, and the mixture was stirred for 1 hour. 2-Bromoethyl acetate (522 mg) was added to the mixture at same temperature, and the mixture was allowed to stand for 19 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with chloroform to give ethyl 4-(2-acetoxyethoxy)cinnamate (716 mg) as an oil.

reactant | sodium hydride | 124 mg | [H-].[Na+]
reactant | ethyl 4-hydroxycinnamate | 500 mg | OC1=CC=C(C=CC(=O)OCC)C=C1 | C11H12O3
reactant | 2-Bromoethyl acetate | 522 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(2-acetoxyethoxy)cinnamate | 716 mg | C(C)(=O)OCCOC1=CC=C(C=CC(=O)OCC)C=C1 | C15H18O5
